US08012956B2
A suspension of methyl 3-bromobenzoate (0.43 g, 2.00 mmol), trans-4-aminocyclohexanol (0.35 g, 3.00 mmol), cesium carbonate (1.63 g, 5.00 mmol), Xantphos (0.024 g, 0.02 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.010 g, 0.01 mmol) in 1,4-dioxane (25 mL) was stirred at 80° C. under N2 atmosphere for 18 hours. After cooling to room temperature the reaction mixture was filtered through a pad of Celite and was washed with ethyl acetate (200 mL), and the combined filtrate was partitioned with water. The organic layer was separated and washed with 1 M aqueous hydrochloric acid and brine, dried over sodium sulfate, filtered, and the solution was concentrated. The residue was purified by column chromatography (hexane:ethyl acetate 4:1 to 3:2) to give methyl 3-[(trans-4-hydroxycyclohexyl)amino]benzoate. (0.28 g, 56%). 1H NMR (400 MHz, DMSO-d6): 7.18 (m, 2H), 7.08 (m, 1H), 6.82 (m, 1H), 5.82 (d, 1H), 3.84 (s, 3H), 3.34 (m, 1H), 2.57 (m, 1H), 1.85 (m, 2H), 1.71 (m, 2H), 1.58 (m, 2H), 1.46 (m, 2H). MS (EI) for C14H19NO3: 250 (MH+).

reactant | methyl 3-bromobenzoate | 2.00 mmol, 0.43 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | trans-4-aminocyclohexanol | 3.00 mmol, 0.35 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | cesium carbonate | 5.00 mmol, 1.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.02 mmol, 0.024 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.01 mmol, 0.010 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 3-[(trans-4-hydroxycyclohexyl)amino]benzoate | O[C@@H]1CC[C@H](CC1)NC=1C=C(C(=O)OC)C=CC1 | C14H19NO3
